US07338950B2
4-(3-Chloropyridin-2-yl)-N-(4-trifluoromethyl-phenyl)benzamide (Compound 18)
To a suspension of 4-(3-chloro-pyridin-2-yl)-benzoic acid (5.0 g, 21.4 mmol) in methylene chloride (100 mL) at ambient temperature was added oxalyl chloride (5.43 g, 42.79 mmol) followed by two drops of DMF and the mixture was heated to reflux for 30 minutes. The clear solution was then concentrated to dryness, dissolved in methylene chloride (100 mL) and was treated with 4-trifluoromethyl aniline (4.14 g, 25.68 mmol) followed by triethylamine (2.6 g, 25.68 mmol) and the mixture was gently heated to reflux for 30 minutes and agitated overnight at ambient temperature. After treating the mixture with sat. Na2CO3, the organic layer was separated, washed with water, dried and concentrated to give the crude product which was chromatographed on silicagel to obtain 4.0 g (49.6%) of the title compound as a white solid.

reactant | 4-(3-chloro-pyridin-2-yl)-benzoic acid | 21.4 mmol, 5.0 g | ClC=1C(=NC=CC1)C1=CC=C(C(=O)O)C=C1 | C12H8ClNO2
reactant | oxalyl chloride | 42.79 mmol, 5.43 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-trifluoromethyl aniline | 25.68 mmol, 4.14 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | triethylamine | 25.68 mmol, 2.6 g | C(C)N(CC)CC | C6H15N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
product | 4-(3-Chloropyridin-2-yl)-N-(4-trifluoromethyl-phenyl)benzamide | 4.0 g, 49.6% | ClC=1C(=NC=CC1)C1=CC=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=C1 | C19H12ClF3N2O
